US07893060B2
[1-(5-Chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidin-2-ylmethyl)piperidin-4-yl]dimethylamine
Prepared according to the method used in the preparation of 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine using dimethylpiperidin-4-ylamine in place of 4-azetidin-1-ylpiperidine. The title compound was obtained as a pale yellow solid (101 mg, 72%).

reactant | 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C18H25ClN6OS
reactant | dimethylpiperidin-4-ylamine | CN(C1CCNCC1)C | C7H16N2
product | [1-(5-Chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidin-2-ylmethyl)piperidin-4-yl]dimethylamine | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCC(CC2)N(C)C)N2CCOCC2 | C17H25ClN6OS
